US05086073
2-Naphthoyl chloride (3.81 g 0.020 moles) dissolved in dichloromethane (10 ml) was added dropwise to an ice cold solution of N-methylbutylamine (1.74 g, 0.020 moles) and diisopropylethylamine (4.5 ml, 0.025 moles) in dichloromethane (40 ml). The mixture was stirred at room temperature for 18 hours and evaporated in vacuo. The residue was taken up into dichloromethane (50 ml), washed with 2M HCl (2×25 ml), dried (MgSO4) then evaporated in vacuo to give N-butyl-N-methyl-naphthalene-2-carboxamide (4.6 g, 0.019 moles) as a yellow oil.

reactant | 2-Naphthoyl chloride | 0.020 moles, 3.81 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | N-methylbutylamine | 0.020 moles, 1.74 g | CNCCCC | C5H13N
reactant | diisopropylethylamine | 0.025 moles, 4.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-butyl-N-methyl-naphthalene-2-carboxamide | 0.019 moles, 4.6 g | C(CCC)N(C(=O)C1=CC2=CC=CC=C2C=C1)C | C16H19NO
